US07626039B2
3-(5-Methyl-2-tetrazol-1-yl-phenyl)-propionic acid: To a mixture of 117A (956 mg, 4.00 mmol), 3,3-diethoxyprop-1-ene (1562 mg, 12.00 mmol), and Bu4NCl (1110 mg, 4.00 mmol) in DMF (22 mL) was added Bu3N (1480 mg, 8.00 mmol). To this mixture under N2 was added Pd(OAc)2 (26.9 mg, 0.12 mmol). The resulting mixture was stirred at 90° C. for 1.5 h, then cooled to rt and quenched with 2N HCl (10 mL). The resulting mixture was stirred for 20 min, then evaporated. The mixture was diluted with EtOAc, washed with water and brine, dried over MgSO4, and purified by flash chromatography to provide 3-(5-Methyl-2-tetrazol-1-yl-phenyl)-propionic acid ethyl ester (695 mg, 66.8%). LCMS m/z 261.2 (M+H)+. To a solution of this intermediate (690 mg, 2.65 mmol), in THF (10 mL) was added 2N LiOH (10 mL). The resulting mixture was stirred at rt for 3 h, then acidified to pH 3-4 with 2N HCl at 0° C. The mixture was concentrated and extracted with EtOAc (5×20 mL). The combined organic layers were washed with brine, dried over MgSO4, and purified by prep. HPLC to give 117B (567 mg, 92%). LCMS m/z 233.2 (M+H)+.

reactant | 3-(5-Methyl-2-tetrazol-1-yl-phenyl)-propionic acid | CC=1C=CC(=C(C1)CCC(=O)O)N1N=NN=C1 | C11H12N4O2
reactant | 3,3-diethoxyprop-1-ene | 12.00 mmol, 1562 mg | C(C)OC(C=C)OCC | C7H14O2
reactant | Bu3N | 8.00 mmol, 1480 mg | N(CCCC)(CCCC)CCCC | C12H27N
catalyst | Bu4NCl | 4.00 mmol, 1110 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.12 mmol, 26.9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(5-Methyl-2-tetrazol-1-yl-phenyl)-propionic acid ethyl ester | 695 mg, 66.8% | C(C)OC(CCC1=C(C=CC(=C1)C)N1N=NN=C1)=O | C13H16N4O2
